US03936504
c. 4-Ethyl-2-nitro indane-1,3-dione
A suspension of 4-ethyl indane-1,3-dione (0.52 g; 0.003 mole) in dry ether (5 ml) was treated dropwise at 10°C with fuming nitric acid (1.0 ml) and the precipitated product filtered after 40 mins. at room temperature; m.p. (water, hydrochloric acid) 98°-100°C; (Found; C, 59.98; H, 4.18; N, 6.34; C11H9NO4 requires: C, 60.28; H, 4.14; N, 6.39%).

reactant | 4-ethyl indane-1,3-dione | 0.003 mole, 0.52 g | C(C)C1=C2C(CC(C2=CC=C1)=O)=O | C11H10O2
reactant | nitric acid | 1.0 ml | [N+](=O)(O)[O-] | HNO3
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-Ethyl-2-nitro indane-1,3-dione | C(C)C1=C2C(C(C(C2=CC=C1)=O)[N+](=O)[O-])=O | C11H9NO4
